datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)C[C:11](C)=[CH2:10].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)C[C+:11](C)[CH2:10][CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(Cl)C=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCC[O:62][Si:11](C)(C)[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1.CCC[O:62][Si+:11](C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>C[C:10]([C:11]#[N:12])([CH:20]1CC[C:22]([O-:23])=[C:21]1C)[C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]1CCC[C:62]1=[O:61])=[O:72].FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>CC[O:82][C:71]([C:10]1([CH:20](C2=CC(F)=CC(F)=C2)C2C(C3=CC(F)=CC(F)=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
"C[C:11](CC1=CC=CC=C1)=[CH2:10].[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>C[C+:11](CC1=CC=CC=C1)[CH2:10][F:20].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;20,21=21"
"C1C[C:20](=[O:21])C1.CC[Ge:11](CC)(CC)[H:10]>>C1C[C:20]([H:10])([O-:21])C1.CC[Ge+:11](CC)CC 10,11=10,20;20,21=21"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72].Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC[O:92][C:71]([CH:10]([F:20])[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72].Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10=20;20,21=21"
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[CH:10]1=[CH:11][CH:12]=[CH:13][O:14]1>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[O+:14]2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20]([N:21](C)C)[C:31]3=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11](C)[CH2:62][Fe-2:63]2345(C#[O+])(C#[O+])C6C2C3C4C65)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CCC[C:20](C)=[O:21].CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)[O-:12]>>CCC[C:20](C)([CH:10]([C:11](=[O:12])[O:72]CC)[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([CH:20]=[O:21])C=C1.[H:10][Si:11]([Cl:62])([CH3:72])[CH3:82]>>C1=CC=C([CH:20]([H:10])[O-:21])C=C1.[Si+:11]([Cl:62])([CH3:72])[CH3:82] 10,11=10,20;20,21=21"
C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CC(C)[P:10](C(C)C)C(C)C>>CC(C)[P+:10](C(C)C)(C(C)C)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1 10=20
"C1=CC=C([S:61](/[CH:10]=[C:11](\[O-:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)(=[O:62])=[O:72])C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:62][CH:11]([H:10])[O:12]1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C1C[O:62][CH:11]=[O+:12]1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[C:11](=[CH2:10])[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CC[O:50][C:22](=[CH:21][CH:20]([CH2:10][C+:11](C)[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
